datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([H:3])([H:4])[H:5].[O:1]([C:2]([H:6])([H:7])[H:8])[O:9][H:10],218.997
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[H:30])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:25]([C:24]([H:27])([H:28])[H:29])([C:26]([H:31])([H:32])[H:33])[H:30])[H:12],19.3719
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4](=[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])[H:16])([H:14])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23],99.119
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([C:17](=[S:18])[H:23])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:19])([H:20])[H:21])([C:17](=[S:18])[H:23])[H:22],43.0952
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([S:10][H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[S:10][H:14])[H:4].[C:9]([H:11])([H:12])[H:13],85.772
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14](=[S:15])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13]([C:14](=[S:15])[H:18])([H:16])[H:17],45.1872
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([S:14][H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13]([S:14][H:17])([H:15])[H:16],44.4759
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[C:38]([H:39])([H:40])[H:41]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14].[H:12][C:38]([H:39])([H:40])[H:41],29.928152
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])[C:8](=[C:9]([H:18])[H:19])[H:17])[H:10].[H:20]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])[C:8](=[C:9]([H:18])[H:19])[H:17])[H:20])[H:10],7.90776
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22][H:23]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:8])[H:9].[H:7][O:21][O:22][H:23],73.203264
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])[H:7])([H:5])[H:6],60.3333
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])[H:9])[H:8])([H:6])[H:7].[H:10],170.138176
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]=[C:11]([C:12]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10]=[C:9]([H:13])[H:14])([C:12]([H:16])([H:17])[H:18])[H:15])[H:4],45.7311
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:19])([H:20])[H:21])([S:12][H:22])[c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27],30.1248
[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])=[C:5]([C:6](=[C:7]([H:13])[H:14])[H:12])[C:8](=[C:9]([H:16])[H:17])[H:15])[H:10].[H:18]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:11])([C:5]([C:6](=[C:7]([H:13])[H:14])[H:12])[C:8](=[C:9]([H:16])[H:17])[H:15])[H:18])[H:10],10.4182
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[H:8]>>[C:0](=[C:1]([C:2]#[C:3][C:4]#[C:5][H:7])[H:8])[H:6],45.1872
[C:0]([C:1](=[C:2]([O:3])[H:8])[H:7])([H:4])([H:5])[H:6].[O:9]([O:10][H:12])[H:11]>>[C:0]([C:1](=[C:2]([O:3][H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[O:9][O:10][H:12],117.985
